US08022209B2
1-[2-(4-Chloro-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine
A solution of 1-[2-(4-chloro-5-trimethylsilanyl-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine (20 mg, 0.05 mmol) in THF (1 mL) was treated with TBAF (1 M in THF, 0.2 mL). After 10 h, the resulting mixture was concentrated, diluted with water, and extracted with CH2Cl2. The organic layer was dried and concentrated, and the resulting residue was purified by preparative TLC (CH2Cl2/MeOH) to yield the title compound as a solid.

reactant | 1-[2-(4-chloro-5-trimethylsilanyl-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine | 0.05 mmol, 20 mg | ClC=1C=C(SC1[Si](C)(C)C)C1=NC=CC(=C1)N1CCN(CC1)C | C17H24ClN3SSi
reactant | TBAF | 1 M, 0.2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-[2-(4-Chloro-thiophen-2-yl)-pyridin-4-yl]-4-methyl-piperazine | ClC=1C=C(SC1)C1=NC=CC(=C1)N1CCN(CC1)C | C14H16ClN3S
